US05629020
(L)-Tyrosine (61.6 g., 0.34 mole) was dissolved in 190 mL of 2N sodium hydroxide. Cyclohexanoyl chloride (49.32 mL, 0.34 mole) was added dropwise to the mixture. Additional aqueous 2N sodium hydroxide was added and the reaction mixture was allowed to stir at room temperature for 2 hours. The mixture was then acidified to pH 9.5 with aqueous (4:1) hydrochloric acid. A precipitate formed which was separated by vacuum filtration. The solids were dissolved in 2N sodium hydroxide and dried by lyophilization to furnish 33.5 g of N,O-dicyclohexanoyl-(L)-tyrosine. The product was purified by column chromatography on silica gel using butanol/acetic acid/water as the eluent system. The pure product was a white solid.

reactant | (L)-Tyrosine | 0.34 mole, 61.6 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | Cyclohexanoyl chloride | 0.34 mole, 49.32 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 190 mL | [OH-].[Na+]
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | N,O-dicyclohexanoyl-(L)-tyrosine | 33.5 g | C1(CCCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(=O)C1CCCCC1)C(=O)O | C23H31NO5
